* C:\Users\PC\Documents\ITBA\2020\1er cuatrimestre\Electro IV\Github posta\e4-tp1\Simulación\Punto 3\Punto 3 (Fuente Buck).asc
V1 N001 0 9V
R1 Vo Vd 10
L1 N001 Vo 220µH Rser=0.65
C1 Vo Vd 39µF Rser=0.23
D1 Vd N001 MUR460
V2 N003 0 PULSE(0 15 1n 1n 1n 9.8u 20u)
Q1 N001 N002 N004 0 BC547B
Q2 0 N002 N004 0 BC557B
M1 Vd Vgate 0 0 IRF530
R2 Vgate N004 100
R3 N002 N003 1k
.model D D
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\PC\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 4000u 0 1n
.backanno
.end
